US04713486
4-[2-(1-Octynyl)-phenoxy]-butanoic acid
Ethyl 4-[2-(1-octynyl)-phenoxy]-butanoate, (250 mg, 0.79 mmole) was hydrolysed with 1 molar equivalent of lithium hydroxide using the same procedure as in example 9. Purification of the crude material by chromatography using silica gel, eluting with chloroform to chloroform/5% methanol afforded the title compound in 99% yield as a colourless oil.

reactant | Ethyl 4-[2-(1-octynyl)-phenoxy]-butanoate | 0.79 mmole, 250 mg | C(#CCCCCCC)C1=C(OCCCC(=O)OCC)C=CC=C1 | C20H28O3
reactant | lithium hydroxide | [OH-].[Li+]
product | 4-[2-(1-Octynyl)-phenoxy]-butanoic acid | 99% yield | C(#CCCCCCC)C1=C(OCCCC(=O)O)C=CC=C1 | C18H24O3
